US07176195B2
15A. 2,3,4,5-Tetrahydro-1H-1,5-benzodiazepine
To an ice cold solution of lithium aluminium hydride (4.68 g, 123 mmol) in dry THF (100 ml), under a nitrogen atmosphere, was added dropwise a solution of 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one (5.0 g, 30.9 mmol) in dry THF (50 ml). The mixture was allowed to warm to room temperature and then heated at reflux for 2 h. The mixture was then cooled to 0° C. and a solution of aqueous ammonium hydroxide (10 ml) in THF (60 ml) was added dropwise. The resultant suspension was stirred for 1 h and then filtered through a pad of celite. The filtrate was evaporated in vacuo to give a tan solid; yield 4.36 g (95%).

reactant | lithium aluminium hydride | 123 mmol, 4.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | 30.9 mmol, 5.0 g | N1C(CCNC2=C1C=CC=C2)=O | C9H10N2O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2,3,4,5-Tetrahydro-1H-1,5-benzodiazepine | N1CCCNC2=C1C=CC=C2 | C9H12N2
